US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-fluoro-phenyl}-ethyl)-amino]-propane dihydrochloride
This compound was prepared analogous to Example 5(b) by reacting 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane with N-methyl-N-[2-(4-fluoro-phenyl)-ethyl]-amine.

reactant | 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-methyl-N-[2-(4-fluoro-phenyl)-ethyl]-amine | CNCCC1=CC=C(C=C1)F | C9H12FN
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-fluoro-phenyl}-ethyl)-amino]-propane dihydrochloride | Cl.Cl.COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC=C(C=C2)F)C)=O)C=C1OC | InChI=1S/C24H31FN2O3.2ClH/c1-26(13-9-18-5-7-21(25)8-6-18)11-4-12-27-14-10-19-15-22(29-2)23(30-3)16-20(19)17-24(27)28;;/h5-8,15-16H,4,9-14,17H2,1-3H3;2*1H
